US05643932
A solution of 1 g of potassium 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]-6-acetylaminobenzoate in 50 ml of water and 10 ml of 30% potassium hydroxide was refluxed for 8 hours with heating. After the completion of a reaction, the solvent was removed by distillation. The residue was made weakly acidic with 10% hydrochloric acid and extracted with 80 ml of ethyl acetate. The extract was washed with 20 ml of a saturated aqueous sodium chloride solution, dried and subjected to distillation to remove the solvent. The residue was recrystallized from ethyl acetate to obtain 168 mg of 2-(3,4-diethoxyphenyl)-4-(3-carboxy-4-aminophenyl)thiazole.

reactant | potassium 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]-6-acetylaminobenzoate | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C=1C=C(C(=O)[O-])C(=CC1)NC(C)=O.[K+]
solvent | water | 50 ml | O | H2O
solvent | potassium hydroxide | 10 ml | [OH-].[K+]
product | 2-(3,4-diethoxyphenyl)-4-(3-carboxy-4-aminophenyl)thiazole | 168 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)N)C(=O)O | C20H20N2O4S
